US05652269
Example 2: Synthesis of N,N',N",N"'-tetracyclohexylhydrazinedicarboximidamide
DCC (1.03 g, 4.97 mmol) was dissolved in tetrahydrofuran (15 mL). Hydrazine (135 mg, 4.22 mmol) was added via syringe. Stirring 30 hours at room temperature produced a clear yellow mixture which was evaporated to a white powder (922 mg). Solution of this powder in diethyl ether, filtration and acidification with HCl (60 mL of saturated Et2O) gave a yellow white precipitate (856 mg). Two recrystallizations (EtOH in an Et2O chamber) gave white prisms (133 mg, 18%, M.P. 288°-290° C). The low percentage of nitrogen in the elemental analysis of this compound indicates that two equivalents of DCC have reacted to hydrazine, forming the title compound. 1H NMR ([2H]-CH3OH) δ 3.21 (s, 4, N-bearing cyclohexyl), 2.0-1.5 (m, 44, cyclohexyls). 13C NMR ([2H]-CH3OH) δ 154.1 (guanidine), 51.7 (N-bearing cyclohexyl), 32.4 and 24.8 (cyclohexyls). IR shows peaks at 1639 and 1589 cm-1. Elem. Analysis (C26N6H50Cl2 : 1/2 H2O). Theor. C 59.30, H 9.76, N 15.96, Found C 58.94, H 9.76, N 16.01.

reactant | DCC | two equivalents | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | hydrazine | NN | H4N2
product | N,N',N",N"'-tetracyclohexylhydrazinedicarboximidamide | C1(CCCCC1)NC(=NC1CCCCC1)NNC(NC1CCCCC1)=NC1CCCCC1 | C26H48N6
